US07109219B2
(2R)-2-Benzyloxycarbonylamino-3-hydroxypropionic acid (1.91 g, 8.00 mmol) and N-methylmorpholine (809 mg, 8.00 mmol) were dissolved in tetrahydrofuran (20 ml). After isobutyl chloroformate (1.09 g, 8.00 mmol) was added dropwise at −15° C. or below, the reaction mixture was stirred for 30 minutes. Then, pyrrolidine (1.13 g, 16.0 mmol) was added at −15° C. or below, and the reaction mixture was further stirred at 0° C. for 30 minutes. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with 1N hydrochloric acid, 1N aqueous solution of sodium hydroxide, a saturated aqueous solution of sodium hydrogencarbonate, and brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the obtained residue was dissolved in a solvent mixture of methanol (15 ml)-tetrahydrofuran (15 ml). Then, 10% palladium on carbon (wet) (300 mg) was added, and the reaction mixture was stirred at room temperature under the stream of hydrogen for 90 minutes. After the catalyst was removed by filtration, the solvent of the filtrate was distilled off under reduced pressure to yield (2R)-2-amino-3-hydroxy-1-(piperidin-1-yl)propan-1-one (684 mg, 3.97 mmol, 50%) as a colorless oil. Similarly to Example 5, the title compound (107 mg, 0.223 mmol, 74%) was obtained as white crystals from phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate (157 mg, 0.300 mmol) synthesized in Production example 5-2 and previously obtained (2R)-2-amino-3-hydroxy-1-(piperidin-1-yl)propan-1-one (228 mg, 1.32 mmol).

reactant | (2R)-2-Benzyloxycarbonylamino-3-hydroxypropionic acid | 8.00 mmol, 1.91 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)O)CO | C11H13NO5
reactant | N-methylmorpholine | 8.00 mmol, 809 mg | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 8.00 mmol, 1.09 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | pyrrolidine | 16.0 mmol, 1.13 g | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2R)-2-amino-3-hydroxy-1-(piperidin-1-yl)propan-1-one | 3.97 mmol, 684 mg, 50% | N[C@@H](C(=O)N1CCCCC1)CO | C8H16N2O2
